US08871738B2
To methyl 3-[2′-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-6-methoxy-4′-(trifluoromethyl)biphenyl-3-yl]propanoate (20 mg, 0.03 mmol) in THF (2 mL) and water (0.5 mL) was added lithium hydroxide-monohydrate (6.21 mg, 0.148 mmol) and hydrogen peroxide (30%, 33.6 mg, 0.296 mmol). The reaction mixture was stirred at room temperature. Upon completion the reaction was diluted with water (10 mL), and solid Na2SO3 was added to quench hydrogen peroxide. The solution was acidified with aqueous HCl (1 M) and was partitioned with ethyl acetate (20 mL). The organic was dried over sodium sulfate, filtered and concentrated before purification by reverse phase HPLC to yield 3-[2′-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-6-methoxy-4′-(trifluoromethyl)biphenyl-3-yl]propanoic acid (9 mg, 0.014 mmol). 1H NMR indicated that this compound exists as a pair of rotamers at a 3:1 ratio. 1H NMR (500 MHz, CDCl3) δ7.87 (s, 1H), 7.82 (s, 2H), 7.75 (s, 1H, minor rotamer), 7.73 (s, 1H, major rotamer) 7.6 (m, 1H) 6.9-7.4 (m, 4H), 6.08 (d, J=8.1 Hz, 1H, major rotamer), 5.15 (t, 1H, minor rotamer) 5.06 (t, J=8.2 Hz, 1H, major rotamer), 4.6 (m, 1H, major rotamer) 4.45 (m, 1H, minor rotamer), 4.98 (m, 1H, minor rotamer), 4.1 (m, 1H), 3.85 (s, 3H, minor rotamer), 3.69 (s, 3H, major rotamer), 2.4-3.1 (m, 4H), 0.9-1.9 (m, 4H). MS ESI calc'd. for C31H25F9NO5 [M+H]+ 662.2. found 662.3. RTA (95% HS): 128 nM

reactant | methyl 3-[2′-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-6-methoxy-4′-(trifluoromethyl)biphenyl-3-yl]propanoate | 0.03 mmol, 20 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@H]2N(C(O1)=O)[C@@H](CC2)C2=C(C=CC(=C2)C(F)(F)F)C2=CC(=CC=C2OC)CCC(=O)OC)(F)F | C32H26F9NO5
reactant | lithium hydroxide-monohydrate | 0.148 mmol, 6.21 mg | O.[OH-].[Li+]
reactant | hydrogen peroxide | 0.296 mmol, 33.6 mg | OO | H2O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
product | 3-[2′-{(1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-3-oxotetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-5-yl}-6-methoxy-4′-(trifluoromethyl)biphenyl-3-yl]propanoic acid | 0.014 mmol, 9 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@H]2N(C(O1)=O)[C@@H](CC2)C2=C(C=CC(=C2)C(F)(F)F)C2=CC(=CC=C2OC)CCC(=O)O)(F)F | C31H24F9NO5
